US08048899B2
A solution of 129 g (0.60 mol) of 2,2-dimethyl-3-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester and 44 mL (0.84 mol) of acetonitrile in toluene (250 mL) is added dropwise to the refluxing suspension of 33 g (0.84 mol) of sodium hydride (60% in mineral oil) in toluene (600 mL) over a period of 2 h. After the addition, the reaction mixture is stirred at reflux for 3 h. Additional 16.7 g (0.42 mol) of sodium hydride (60% dispersion in mineral oil) and 22 mL (0.42 mol) of acetonitrile are added to the reaction mixture and the refluxing is continued for another 1.5 h. After this time, the reaction mixture is cooled to room temperature and ice water (˜0.8 L) is added. The layers are separated and the aqueous layer is neutralized to pH ˜6-7 by adding 1M aqueous HCl solution. The aqueous layer is extracted with ethyl acetate (3×0.8 L). The organic layers are combined, washed with brine (1.5 L), dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure to yield 137 g of 4,4-dimethyl-3-oxo-5-(tetrahydro-pyran-2-yloxy)-pentanenitrile as a brown oil, which is used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.09 (6H, s), 1.10 (6H, s), 1.4-1.7 (6H, m), 3.3 (1H, m), 3.35 (1H, d), 3.4 (1H, m), 3.6 (1H, d), 3.7 (1H, m), 4.2 (1H, s); 4.55 (1H, t).

reactant | 2,2-dimethyl-3-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester | 0.60 mol, 129 g | COC(C(COC1OCCCC1)(C)C)=O | C11H20O4
reactant | acetonitrile | 0.84 mol, 44 mL | C(C)#N | C2H3N
reactant | sodium hydride | 0.84 mol, 33 g | [H-].[Na+]
reactant | sodium hydride | 0.42 mol, 16.7 g | [H-].[Na+]
reactant | acetonitrile | 0.42 mol, 22 mL | C(C)#N | C2H3N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 4,4-dimethyl-3-oxo-5-(tetrahydro-pyran-2-yloxy)-pentanenitrile | 137 g | CC(C(CC#N)=O)(COC1OCCCC1)C | C12H19NO3
